US05574044
From 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one and nicotinoylchloride hydrochloride using the procedure described for Example 11, Step 3 there was obtained 1,3-dihydro-1-{trans-4-[4-(3-pyridinecarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 9.51 (s, 1H), 8.68 (s, 2H), 7.77 (m, 1H), 7.38 (m, 1H), 7.12-7.04 (m, 4H), 4.26 (m, 1H), 3.83 (s, 2H), 3.47 (s, 2H), 2.71 (s, 2H), 2.58 (s, 2H), 2.53 (m, 2H), 2.30 (q, 2H), 2.0 (q, 4H), 1.53 (m, 2H), 1.26 (m, 2H). The hydrochloride salt was precipitated from chloroform/toluene: Analysis calculated for C23H27N5O2.HCl.0.20 CHCl3.0.45 CH3C6H5C: 57.99, H: 6.43, N: 12.83 found C: 58.04, H: 6.36, N: 12.75.

reactant | 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one | N1(CCNCC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
reactant | nicotinoylchloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
product | 1,3-dihydro-1-{trans-4-[4-(3-pyridinecarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | N1=CC(=CC=C1)C(=O)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C23H27N5O2
